US08871967B2
(Z)-1-cyclopropylethyl 3-hexenoate
Prepared from methyl (3Z)-3-hexenoate and cyclopropyl methyl carbinol according to the ester preparation method B described above.

reactant | methyl (3Z)-3-hexenoate | C(C\C=C/CC)(=O)OC | C7H12O2
reactant | cyclopropyl methyl carbinol | C1(CC1)C(O)C | C5H10O
product | (Z)-1-cyclopropylethyl 3-hexenoate | C(C\C=C/CC)(=O)OC(C)C1CC1 | C11H18O2
